Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left ___ Aneurysm
 
Major Surgical or Invasive Procedure:
___ Coil/Embolization of Left ___ aneurysm

 
History of Present Illness:
___ yo male patient known to Neurosurgery who previously 
underwent angio and embolization of AComm aneurysm.  He returns 
for elective coil/embolization of known left ___ aneurysm.
 
Past Medical History:
Right Femoral artery pseudoaneurysm
Colon Ca-Colostomy
HTN
DMII
Hyperlipidemia
Anterior communicating artery aneurysm 
Posterior Inferior Cerebellar Artery Aneurysm
 
Social History:
___
Family History:
Mother: stroke 
Father, sister, brother: cancer
 
Physical Exam:
ON DISCHARGE:
Patient is awake, oriented x 3. R pupil 4 brisk. L pupil 4 
sluggish. EOM intact. Speech is clear and appropriate. follows 
commads. ___ strengths throughout. face symmstric, tongue 
midline, no pronator drift. sensory intact.

right groin: dressing on, no swelling, no bruising, mild 
tenderness at incision site. denies back pain. 
 
Pertinent Results:
Pertinent results available in OMR
 
Brief Hospital Course:
___ yo male presents for elective coil/embolization of left ___ 
aneurysm

#Left ___ Aneurysm:  Pt presents on ___ for coil/embolization. 
 Procedure tolerated well and transferred to ___, please refer 
to operative note for details. On POD #1, patient is 
neurologically stable. Foley and arterial line removed. Patient 
ambulated with nursing without issue. Patient discharge to home 
with family. All questions answered. 
 
Medications on Admission:
clopidogrel 75 mg QD
levothyroxine 50 mcg QAM
lisinopril 20 mg-HCTZ 12.5 mg 1 tab QD
metformin 500 mg 1 tab BID
simvastatin 20 mg QHS
ascorbic acid (vitamin C) 1,000 mg QD
aspirin 325 mg QD, 
calcium carbonate 500 mg QD
vitamin D3 2,000 IU QD
MVI 1 tab QD
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
2.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
3.  lisinopril-hydrochlorothiazide ___ mg oral daily   
4.  Ascorbic Acid ___ mg PO DAILY  
5.  Calcium Carbonate 1250 mg PO DAILY  
6.  Levothyroxine Sodium 50 mcg PO DAILY  
7.  MetFORMIN (Glucophage) 500 mg PO BID  
8.  Multivitamins 1 TAB PO DAILY  
9.  Simvastatin 20 mg PO QPM  
10.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left ___ Aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Embolization 

Activity
•You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
•Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
•You make take leisurely walks and slowly increase your activity 
at your own pace. ___ try to do too much all at once.
•Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
•You make take a shower.

Medications
•Resume your normal medications and begin new medications as 
directed.
•You may be instructed by your doctor to take one ___ a day 
and/or Plavix. If so, do not take any other products that have 
aspirin in them. If you are unsure of what products contain 
Aspirin, as your pharmacist or call our office.
•You may use Acetaminophen (Tylenol) for minor discomfort if you 
are not otherwise restricted from taking this medication.
•If you take Metformin (Glucophage) you may start it again three 
(3) days after your procedure.

Care of the Puncture Site
•You will have a small bandage over the site.
•Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
•Keep the site clean with soap and water and dry it carefully.
•You may use a band-aid if you wish.

What You ___ Experience:
•Mild tenderness and bruising at the puncture site (groin).
•Soreness in your arms from the intravenous lines.
•Mild to moderate headaches that last several days to a few 
weeks.
•Fatigue is very normal
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the puncture 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Constipation
•Blood in your stool or urine
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___